US07713994B2
4-{[(4-Hydroxy-5-propoxy-pyridin-2-ylmethyl)-amino]-methylene}-6-bromo-4H-isoquinoline-1,3-dione
A mixture of 2-aminomethyl-5-propoxy-pyridin-4-ol (137 mg, 0.75 mmole) in 10 mL of N,N-dimethylformamide is stirred, then 4-methoxymethylene-6-bromo-4H-isoquinoline-1,3-dione (212 mg, 0.75 mmole) is added and the reaction mixture stirred for one hour. The reaction mixture is evaporated to dryness, triturated with 5% methanol in chlororform, filtered washed with fresh 5% methanol in chloroform, washed with acetonitrile and dried to give a beige solid, 303 mg, (93%); MS (ES+): m/z 432.0 (M+H).

reactant | 2-aminomethyl-5-propoxy-pyridin-4-ol | 0.75 mmole, 137 mg | NCC1=NC=C(C(=C1)O)OCCC | C9H14N2O2
reactant | 4-methoxymethylene-6-bromo-4H-isoquinoline-1,3-dione | 0.75 mmole, 212 mg | COC=C1C(NC(C2=CC=C(C=C12)Br)=O)=O | C11H8BrNO3
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-{[(4-Hydroxy-5-propoxy-pyridin-2-ylmethyl)-amino]-methylene}-6-bromo-4H-isoquinoline-1,3-dione | OC1=CC(=NC=C1OCCC)CNC=C1C(NC(C2=CC=C(C=C12)Br)=O)=O | C19H18BrN3O4
